US08686024B2
To a solution of 5-methoxyindoline (175 mg, 1.17 mmol) in 3.6 mL of dry N,N-dimethylformamide was added sodium hydride (55%, 70 mg, 1.6 mmol) at 0° C. After the reaction mixture was stirred at the same temperature for 30 min, (2-bromoethyl)benzene (0.22 mL, 1.6 mmol) was added with additional stirring at room temperature overnight. After the reaction mixture was quenched with water at 0° C., the solution was extracted with diethyl ether (20 mL) twice. The combined extracts were washed with brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 85/15) to obtain 5-methoxy-1-phenethylindole (95 mg, 32%).

reactant | 5-methoxyindoline | 1.17 mmol, 175 mg | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | sodium hydride | 1.6 mmol, 70 mg | [H-].[Na+]
reactant | (2-bromoethyl)benzene | 1.6 mmol, 0.22 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylformamide | 3.6 mL | CN(C=O)C | C3H7NO
product | 5-methoxy-1-phenethylindole | 95 mg, 32% | COC=1C=C2C=CN(C2=CC1)CCC1=CC=CC=C1 | C17H17NO
